US07226923B2
4-Bromo-2-(4-phenylsulfanyl-phenyl)-2H-phthalazin-1-one
2-(4-Phenylsulfanyl-phenyl)-2,3-dihydro-phthalazine-1,4-dione (0.10 g, 0.29 mmol) and phosphorus oxybromide (0.33 g, 12 mmol) were stirred at 150° C. for 40 min. H2O (50 ml) was added after cooling to room temperature. Extraction with dichloromethane, drying of the combined organic phases over Na2SO4, evaporation of the solvent and purification of the raw product by chromatography over silica gel with heptane:dichloromethane (2:1 to 0:1) gave the desired compound (0.10 g, 86%). 1H-NMR: (400 MHz, D6-DMSO) 8.36 (1H, d), 8.11 (1H, d), 8.00 (2H, m), 7.65 (2H, d), 7.44 (7H, m); MS (ESI+)=411.2 (M+H)+.

reactant | 2-(4-Phenylsulfanyl-phenyl)-2,3-dihydro-phthalazine-1,4-dione | 0.29 mmol, 0.10 g | C1(=CC=CC=C1)SC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(N1)=O)=O | C20H14N2O2S
reactant | phosphorus oxybromide | 12 mmol, 0.33 g | P(=O)(Br)(Br)Br | Br3OP
solvent | H2O | 50 ml | O | H2O
product | 4-Bromo-2-(4-phenylsulfanyl-phenyl)-2H-phthalazin-1-one | 0.10 g, 86% | BrC1=NN(C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)SC1=CC=CC=C1 | C20H13BrN2OS
